US09056874B2
(±)-3-(5-Cyano-1H-benzo[d]imidazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)-2-methylpropanoic acid (Diastereomer A)
To (±)-methyl 3-(5-cyano-1H-benzo[d]imidazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)-2-methylpropanoate (diastereomer A, Example 147-B) (45 mg, 0.11 mmol) was added LiOH (50 mg, 2.0 mmol) in MeOH/Water (3 mL:0.8 mL) and the reaction was heated at 60° C. overnight. The reaction was concentrated, diluted with ethyl acetate (100 mL) and 1 M HCl (20 mL). The organic layer was removed, dried over sodium sulfate and purified via RP-FCC (ACN/water) to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.63-10.91 (m, 1H) 7.97 (br. s., 1H) 7.56 (br. s., 1H) 7.44-7.50 (m, 1H) 7.13-7.18 (m, 1H) 6.74 (s, 1H) 6.26 (br. s., 1H) 5.15 (d, J=9.29 Hz, 1H) 3.82 (s, 3H) 3.61-3.73 (m, 1H) 2.40 (s, 3H) 1.25 (d, J=6.97 Hz, 3H). HRMS calcd. for C22H20N4O3 (M+H)+ 389.1605. found 389.1604.

reactant | (±)-methyl 3-(5-cyano-1H-benzo[d]imidazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)-2-methylpropanoate | C(#N)C1=CC2=C(NC(=N2)C(C(C(=O)OC)C)C2=C3C=CNC3=C(C=C2OC)C)C=C1 | C23H22N4O3
reactant | LiOH | 2.0 mmol, 50 mg | [Li+].[OH-]
solvent | MeOH Water | 3 mL | CO.O
product | (±)-3-(5-Cyano-1H-benzo[d]imidazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)-2-methylpropanoic acid | C(#N)C1=CC2=C(NC(=N2)C(C(C(=O)O)C)C2=C3C=CNC3=C(C=C2OC)C)C=C1 | C22H20N4O3
